US05025036
A solution of 0.45 g (1.2 mmol) of 4-[6-(2,3-dimethoxyphenyl)hexyloxy]-2-hydroxybenzoic acid methyl ester in 25 mL of methanol and 8 mL of 1N sodium hydroxide was refluxed for 7 hours. Workup as in Example 24 and recrystallization from methanol gave 0.36 g (82% yield), mp 115°-116° of 4-[6-(2,3-dimethoxyphenyl)hexyloxy]-2-hydroxybenzoic acid.

reactant | 4-[6-(2,3-dimethoxyphenyl)hexyloxy]-2-hydroxybenzoic acid methyl ester | 1.2 mmol, 0.45 g | COC(C1=C(C=C(C=C1)OCCCCCCC1=C(C(=CC=C1)OC)OC)O)=O | C22H28O6
solvent | methanol | 25 mL | CO | CH4O
solvent | sodium hydroxide | 1N, 8 mL | [OH-].[Na+]
product | 4-[6-(2,3-dimethoxyphenyl)hexyloxy]-2-hydroxybenzoic acid | 82% yield | COC1=C(C=CC=C1OC)CCCCCCOC1=CC(=C(C(=O)O)C=C1)O | C21H26O6
